Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3](=[C:5]([H:6])[H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],-1.44888432803
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.7080911616500005
[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6]/[O:8][H:9].[H:7],4.90118738454
[H:1][C:2]([H:3])=[C:4][C@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]([H:3])=[C:4][C@@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])[H:14],4.62713402056
[C:3](=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11])\[C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.98620239693
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13]>>[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13].[H:1],2.53340250256
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7].[H:8]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[H:8],-1.85255685697
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:7].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]=[C:8]([H:9])[H:10],4.89785954962
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])#[C:6][C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2][H:3],6.98407595033
[C:1].[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-5.30601293292
[O:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:5](=[C:6]([H:7])[H:8])=[C:9]([H:10])[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[H:4],0.719769614489
[H:1][C:2]#[C:3][C:10]([H:11])([H:12])[H:13].[O:4][O:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]=[C:3]([O:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.126923256908
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])[H:7]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.9086560233
[H:11].[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.02498234476
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.45235154097
[C:1].[C:2]=[C:3]([C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-7.25751551886
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[H:7])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:8],1.7910711415599998
[C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-5.98571379304
[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:1].[C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[O:9][C:10]([H:11])([H:12])[H:13],3.9328354211300014
[O:1]=[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11]>>[C:5]([H:6])#[C:7][C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][O:3][H:4],1.57340981404
[H:1][C:2]#[C:3][C:4]([C:6]#[C:7][H:8])[O:9][H:10].[H:5]>>[H:1][C:2]#[C:3][C:4]([H:5])([C:6]#[C:7][H:8])[O:9][H:10],-3.13410854329
[H:1][C:2]([H:3])=[C:4]=[C:6]([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-3.31445520057
[H:1][C:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][C@:7]1([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-2.62726577832
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])=[C:10][H:11],5.147100559719999
[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[H:1]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-3.76975214804
[H:13].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.62174056234
[C:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11]>>[C:1].[C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11],3.19432454612
[C:7]=[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])=[C:5][H:6]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10],-4.74508771443
